2134-10-16 08:24:00 Physician Resident Progress Note
Chief Complaint: this AM, says SOB is improved. As per nursing, when
   got off bedpan, had some new wheezing.  Otherwise feeling well.
   24 Hour Events:
 NASAL SWAB - At [**2134-10-16**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2134-10-15**] 05:39 PM
   Furosemide (Lasix) - [**2134-10-15**] 10:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-16**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 109 (88 - 137) bpm
   BP: 151/97(94) {101/54(64) - 151/116(122)} mmHg
   RR: 27 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 54 Inch
                  Total In:
                                                                    320 mL
                  PO:
                                                                    270 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                    615 mL
   Urine:
                                                                  1,545 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,225 mL
                                                                   -615 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: irreg irreg, JVP 8
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   occasional at bases, Wheezes : occasional throughout, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   333 K/uL
   8.6 g/dL
   153 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.2 mEq/L
   20 mg/dL
   104 mEq/L
   141 mEq/L
   28.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2134-10-15**]  05:29 PM
                             [**2134-10-15**]  06:30 PM
                             [**2134-10-15**]  10:07 PM
                             [**2134-10-16**]  03:14 AM
   WBC
   8.1
   9.2
   Hct
   29.1
   28.0
   Plt
   358
   333
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   189
   153
   Other labs: PT / PTT / INR:13.0/30.1/1.1, CK / CKMB /
   Troponin-T:82//<0.01, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR
   1. Mild interstitial pulmonary edema.
   2. Small right pleural effusion with loculated fluid in the right minor
   fissure.
   3. Linear opacities in both lung bases, likely atelectasis. Infection
   is not
   completely excluded in these regions.
   Microbiology: [**2134-10-15**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2134-10-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2134-10-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
   Assessment and Plan
   This is a [**Age over 90 **] yo generally healthy female with a 2-3 weeks of worsening
   dyspnea.
   .
   #  Dyspnea - most likely secondary to heart failure possibly in the
   setting of atrial fibrillation.  The ED reported that she entered Afib
   in the ED, but no EKG to show sinus rhythm.  Patient with volume
   overload on exam.  no evidence of PNA and no previous history of COPD.
   PE lower on differential given lack of risk factors.  new diagnosis of
   CHF in this patient.  unclear [**Name2 (NI) 172**].  concern about silent MI
   causing CHF, but no elevated troponins.
   - goal I/O 1L neg, currently 1.2L negative; still with some crackles on
   exam, will give extra 10mg IV lasix now
   - will obtain ECHO in am
   - monitor I/Os, daily weights
   - cycle CE--> negative x 3 sets
   - f/u EKG this AM
   - monitor on tele
   - aspirin 325 mg PO daily
   - Start atrovent nebs q6h
   .
   #  Atrial fibrillation - per patient she has a history of Afib though
   not recorded in OMR.  Per ED patient entered AFib in ED which would
   make patient candidate for cardioversion, but it sounds as though
   cardioversion is not in line with her goals of care. CHADS 2 score is
   2; the risk of anticoagulation may outweight the benefit given the
   patient's age.
   - in afib throughout night, but heart rates in high 90's to low 100's
   - will discuss history of atrial fibrillation with patient's PCP
   [**Name Initial (PRE) **] rate control for now; will start low dose metoprolol
   - defer anticoag to PCP.
   .
   # Eye care - will continue patient's home regimen. family to call in
   with list of eye drops.
   .
   # Anemia - Hct 30 close to recent baseline.  previous labs show iron
   deficiency anemia.  monitor Hct daily.
   .
   # FEN: No IVF, cardiac diet, replete electrolytes
   .
   # Prophylaxis: Hep SQ, PPI given history of gerd, bowel reg.
   .
   # Access: 2 PIV
   .
   # Code: DNR/DNI discussed with patient & family
   .
   # Communication: [**Name (NI) **] (niece) [**Telephone/Fax (1) 9959**], [**Female First Name (un) 9960**] (grandneice)
   [**Telephone/Fax (1) 9961**], [**Name (NI) **] (brother) [**Telephone/Fax (1) 9962**]
   .
   # Disposition: to floors today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2134-10-15**] 03:55 PM
   22 Gauge - [**2134-10-15**] 03:56 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: prilosec, bowel reg
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: To floors today

2134-10-16 12:19:00 Physician Attending Progress Note
Chief Complaint: Congestive Heart Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Rate controlled with metoprolol
   24 Hour Events:
 NASAL SWAB - At [**2134-10-16**] 12:00 AM
   Almost 2L negative since arrival in ICU yesterday
   History obtained from Patient, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2134-10-15**] 05:39 PM
   Furosemide (Lasix) - [**2134-10-15**] 10:48 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2134-10-16**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 113 (88 - 137) bpm
   BP: 159/132(138) {101/54(64) - 159/132(138)} mmHg
   RR: 32 (20 - 32) insp/min
   SpO2: 86%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 54 Inch
                  Total In:
                                                                    320 mL
                  PO:
                                                                    270 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                    630 mL
   Urine:
                                                                  1,545 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,225 mL
                                                                   -630 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 86%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Wheezes : throughout)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
                                  8.6 g/dL
   333 K/uL
   153 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.2 mEq/L
   20 mg/dL
   104 mEq/L
   141 mEq/L
   28.0 %
   9.2 K/uL
                             [**2134-10-15**]  05:29 PM
                             [**2134-10-15**]  06:30 PM
                             [**2134-10-15**]  10:07 PM
                             [**2134-10-16**]  03:14 AM
   WBC
   8.1
   9.2
   Hct
   29.1
   28.0
   Plt
   358
   333
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   189
   153
   Other labs: PT / PTT / INR:13.0/30.1/1.1, CK / CKMB /
   Troponin-T:82//<0.01, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
   [**Age over 90 **] yo generally healthy female with a 2-3 weeks of worsening dyspnea
   [**3-8**] CHF
   # CHF: Now improved after diuresis - but still has crackles at bases
   despite improvement in leg edema.  Awaiting TTE.
   #  Atrial fibrillation - appears to be new.  Now rate controlled.
   Deferring anticoagulation for time being but giving asa.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2134-10-15**] 03:55 PM
   22 Gauge - [**2134-10-15**] 03:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2134-10-17 11:19:00 Physician Attending Progress Note
Chief Complaint: Congestive Heart Failure, atrial fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   1.4L negative yesterday
   TTE with EF 35% --> mild MR. [**First Name (Titles) **] [**Last Name (Titles) 9990**] in RVSP.
   24 Hour Events:
   Mild delerium overnight per report
   Self-D/D'd Foley
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-17**] 08:24 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2134-10-17**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35
C (95
   HR: 93 (83 - 117) bpm
   BP: 113/49(66) {86/49(58) - 170/148(153)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 44.6 kg (admission): 44.2 kg
   Height: 54 Inch
                  Total In:
                                                                    120 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                      0 mL
   Urine:
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,360 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, slightly confused
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   lower [**2-5**] bilaterally, Wheezes : throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mildly confused
   Labs / Radiology
   8.9 g/dL
   380 K/uL
   98 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.8 mEq/L
   28 mg/dL
   102 mEq/L
   140 mEq/L
   29.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2134-10-15**]  05:29 PM
                             [**2134-10-15**]  06:30 PM
                             [**2134-10-15**]  10:07 PM
                             [**2134-10-16**]  03:14 AM
                             [**2134-10-17**]  07:44 AM
   WBC
   8.1
   9.2
   10.8
   Hct
   29.1
   28.0
   29.5
   Plt
   358
   333
   380
   Cr
   0.9
   1.0
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   189
   153
   98
   Other labs: PT / PTT / INR:12.9/41.1/1.1, CK / CKMB /
   Troponin-T:82//<0.01, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
   [**Age over 90 **] yo generally healthy female with a 2-3 weeks of worsening dyspnea
   [**3-8**] CHF
   # CHF: though oxygenating well and comfortable, still has crackles on
   exam and elevated JVP.  daily weights.  continue to diurese
   #  Atrial fibrillation - Continue with rate control, asa
   # Delerium: In setting of CHF and ICU stay
   Remainder of issue per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2134-10-15**] 03:55 PM
   22 Gauge - [**2134-10-15**] 03:56 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)/DNI
   Disposition :Transfer to floor
   Total time spent: